US06399629B1
(B) trans-4-Aminomethyl-L-Proline 4-Phenoxyphenylamide Dihydrochloride
A solution of 4 N hydrochloric acid in 1,4-dioxane (6 mL) was added to a solution of trans-4-(N-tert-butoxycarbonylaminomethyl)-N-tert-butoxycarbonyl-L-proline 4-phenoxyphenylamide (A, 182 mg) in 1,4-dioxane (6 mL) at room temperature. After stirring at room temperature for 20 min, the reaction mixture was concentrated in vacuo. The residue was washed with ether to give the title compound (95 mg) as a colorless solid: 1H NMR (400 MHz, D2O) δ 2.36 (m, 1 H), 2.60 (m, 1H), 2.82 (m, 1 H), 3.23 (m, 3 H), 3.85 (dd, J=7.5, 11.5 Hz, 1 H), 4.73 (dd, J=3.9, 9.3 Hz, 1 H), 7.08 (d, J=6.84 Hz, 2 H), 7.10 (d, J=6.84 Hz, 2 H), 7.22 (t, J=7.0 Hz, 1H), and 7.45 (m, 4 H).

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | trans-4-(N-tert-butoxycarbonylaminomethyl)-N-tert-butoxycarbonyl-L-proline 4-phenoxyphenylamide | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC([C@H]1N(C[C@@H](C1)CNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C28H37N3O6
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | trans-4-Aminomethyl-L-Proline 4-Phenoxyphenylamide Dihydrochloride | 95 mg | Cl.Cl.O(C1=CC=CC=C1)C1=CC=C(C=C1)NC([C@H]1NC[C@@H](C1)CN)=O | InChI=1S/C18H21N3O2.2ClH/c19-11-13-10-17(20-12-13)18(22)21-14-6-8-16(9-7-14)23-15-4-2-1-3-5-15;;/h1-9,13,17,20H,10-12,19H2,(H,21,22);2*1H/t13-,17-;;/m0../s1
